Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
ETT-MIBI (Exercise Stress Test)

 
History of Present Illness:
 
HISTORY OF PRESENTING ILLNESS:  

Mr ___ is a ___ y/o M with PMH significant for CAD (s/p DES to
___ LAD in ___, HTN, HLD, who presents for chest pain. 

Of note, this is a patient of Dr ___. In ___ he suffered
an NSTEMI with angiography showing total occlusion of the
proximal LAD which was stented successfully with a 3.0 x 12 mm
Promus drug-eluting stent. Otherwise there was 50% disease in 
the
circumflex, ramus and less in the right coronary.
Echocardiography initially showed anteroapical akinesis with an
ejection fraction of 31%. A subsequent echocardiogram on
___ showed persistence of anteroseptal and lateral
hypokinesis and apical akinesis but with ejection fraction
increased to 55%. He has had occaisonal chest pain since this
time, and underwent cardiac cath in ___ which showed patent
stent and otherwise stable disease. 

Patient notes that for the last few months he has had occasional
on and off chest pain.  The pain is described as in his upper
chest especially on the left side.  It is a dull aching 
pressure.
It is not clearly induced by activity and does not clearly go
away with rest.  Episodes last for hours.  Is better over the
last 2 weeks, however and within last 24 hours it started he 
once
again and this time radiated into his back.  Given his ongoing
symptoms, he presented to the emergency room.  An EKG did not
reveal any evidence of acute ischemia.  Troponins x2 were
negative.  Patient was then discussed with the cardiology 
fellow,
and is ultimately admitted for stress test.

 
Past Medical History:
- HTN
- HLD
- CAD s/p PCI (DES to LAD on ___ 
- HCV s/p interferon 
 
Social History:
___
Family History:
- Father with pacemaker and colon CA
- Mother with breast CA
- No family history of early MI, cardiomyopathies, or 
sudden cardiac death. 
 
Physical Exam:
GEN: Well appearing, NAD
HEENT: Conjunctiva clear, PERRL, MMM
NECK: No JVD. 
LUNGS: CTAB
HEART: RRR, nl S1, S2. No m/r/g.
ABD: NT/ND, normal bowel sounds. 
EXTREMITIES: No edema. WWP.
SKIN: No rashes.
NEURO: AOx3. 
 

 
Pertinent Results:
Admission Labs
==============

___ 07:45AM BLOOD WBC-7.4 RBC-4.87 Hgb-14.5 Hct-43.8 MCV-90 
MCH-29.8 MCHC-33.1 RDW-12.9 RDWSD-41.9 Plt ___
___ 07:45AM BLOOD Neuts-68.5 Lymphs-18.7* Monos-10.4 
Eos-1.6 Baso-0.4 Im ___ AbsNeut-5.09 AbsLymp-1.39 
AbsMono-0.77 AbsEos-0.12 AbsBaso-0.03
___ 07:45AM BLOOD Plt ___
___ 07:45AM BLOOD Glucose-103* UreaN-17 Creat-1.0 Na-140 
K-5.0 Cl-104 HCO3-25 AnGap-11
___ 07:45AM BLOOD cTropnT-<0.01

Discharge Labs
==============

___ 06:47AM BLOOD WBC-6.2 RBC-5.03 Hgb-15.0 Hct-46.3 MCV-92 
MCH-29.8 MCHC-32.4 RDW-13.1 RDWSD-43.7 Plt ___
___ 06:47AM BLOOD Plt ___
___ 06:47AM BLOOD ___ PTT-37.6* ___
___ 06:47AM BLOOD Glucose-106* UreaN-18 Creat-0.9 Na-140 
K-4.1 Cl-101 HCO3-27 AnGap-12
___ 06:47AM BLOOD Calcium-9.6 Phos-3.5 Mg-2.0

Exercise Stress Test
  
INTERPRETATION: This ___ year old man with h/o CAD s/p MI and LAD 

stent in ___ was referred to the lab for evaluation of chest 
discomfort. He exercised for 10 minutes and 30 seconds on 
modified ___ 
protocol and stopped for fatigue. The peak estimated MET 
capacity is 
8.7, which represents an average exercise tolerance for his age. 
No 
chest, arm, neck or back discomfort reported. No significant ST 
segment 
changes noticed. Rhythm was sinus with frequent isolated APBs 
and rare 
atrial couplets in early recovery. Appropriate HR and BP 
response to 
exercise and recovery. 
IMPRESSION : No anginal symptoms or ischemic EKG changes to the 
achieved 
workload. Nuclear report sent separately. 

 
Brief Hospital Course:
Patient Summary
===============
Mr ___ is a ___ y/o M with PMH significant for CAD (s/p DES to
___ LAD in ___, HTN, HLD, who presented for chest pain and 
underwent an ETT-MIBI which showed: EF 46%, no symptoms or ECG 
changes, large fixed perfusion defect in mid/apical segment in 
LAD territory (consistent with old infarct in ___. Hypokinesis 
of anterior wall, akinesis of apex.

Acute Issues
============
# CAD (s/p DES in ___ to ___ LAD)
Pt presented with several months of atypical chest pain that
acutely worsened on ___ evening. The pain is not reproduced
with activity or relieved with rest. His EKG does not show any
evidence of active ischemia and his troponins were negative x2.
However, given his significant coronary artery disease history,
he was admitted to undergo cardiac stress testing. His home 
aspirin and atorvastatin were continued. He had an exercise 
stress test which showed no new changes from prior. 

Chronic Issues
==============
#Hypertension
Home lisinopril and carvedilol were continued.

#Hyperlipidemia
Home atorvastatin was continued.

Transitional Issues
===================
none
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 5 mg PO DAILY 
2. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
3. CARVedilol 3.125 mg PO BID 
4. Atorvastatin 80 mg PO QPM 
5. Multivitamins 1 TAB PO DAILY 
6. Nitroglycerin SL 0.3 mg SL PRN chest pain 
7. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  CARVedilol 3.125 mg PO BID  
5.  Lisinopril 5 mg PO DAILY  
6.  Multivitamins 1 TAB PO DAILY  
7.  Nitroglycerin SL 0.3 mg SL PRN chest pain  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis 
=================
Unstable Angina
Coronary Artery Disease

Secondary Diagnosis
===================
Hypertension
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because you had intermittent 
chest pain. Please see below for more information on your 
hospitalization. It was a pleasure participating in your care!  
 
What happened while you were in the hospital?  
- You had a stress test which was to assess how your heart 
functioned under stress. It showed EF 46%, no symptoms or ECG 
changes, large fixed perfusion defect in mid/apical segment in 
LAD territory (consistent with old infarct in ___. Hypokinesis 
of anterior wall, akinesis of apex. There was no need for any 
intervention, so you were discharged home. All of your home 
medications were continued in the hospital.  

What should you do after leaving the hospital?  
- Please take your medications as listed below and follow up at 
the listed appointments. 

We wish you the best!
- Your ___ Healthcare Team 
 
Followup Instructions:
___